US09315521B2
To a 0° C. mixture of 5-(bromomethyl)-4-ethenyl-1,3-thiazole hydrobromide (2.6 mmol) and 2-sulfanyl-6-(trifluoromethyl)pyrimidin-4-ol (275 mg, 1.4 mmol) in absolute ethanol (15 mL) was added triethylamine (1.5 mL, 10.8 mmol). The mixture was stirred at room temperature overnight. The solution was evaporated, and the residue was treated with diethyl ether (100 mL). The solid material was removed by filtration. The filtrate was evaporated, and the crude product was purified by flash chromatography (0-5% MeOH/DCM), affording 2-{[(4-ethenyl-1,3-thiazol-5-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol (270 mg, 60%); 1H NMR (500 MHz, DMSO-d6): δ 4.75 (s, 2H), 5.42 (dd, 1H, J=2.3 Hz, 10.8 Hz), 6.06 (dd, 1H, J=2.3 Hz, 16.9 Hz), 6.68 (s, 1H), 8.95 (s, 1H); M+320.

reactant | 5-(bromomethyl)-4-ethenyl-1,3-thiazole hydrobromide | 2.6 mmol | Br.BrCC1=C(N=CS1)C=C
reactant | 2-sulfanyl-6-(trifluoromethyl)pyrimidin-4-ol | 1.4 mmol, 275 mg | SC1=NC(=CC(=N1)O)C(F)(F)F | C5H3F3N2OS
reactant | triethylamine | 10.8 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-{[(4-ethenyl-1,3-thiazol-5-yl)methyl]sulfanyl}-6-(trifluoromethyl)pyrimidin-4-ol | 270 mg, 60% | C(=C)C=1N=CSC1CSC1=NC(=CC(=N1)O)C(F)(F)F | C11H8F3N3OS2
